US06306871B1
Methyl 2-Iodo-5-Nitro-Benzoate
In a 5 liter 3 necked flask, 2-iodo-5-nitro-benzoic acid (100 grams) was dissolved in methanol (3000 ml). The flask was fitted with a reflux condenser and 50 ml of concentrated sulfuric acid was added carefully with cooling. After the completion of the addition, the contents were refluxed for 3 days until completion of the reaction. The reaction was followed by TLC. After the completion of the reaction, the reaction mixture was concentrated to 1000 ml and allowed to cool. The product crystalized as a light yellow colored powder. The solid material was filtered and washed with water and methanol and air-dried. The yield was 90 grams.

reactant | 2-iodo-5-nitro-benzoic acid | 100 grams | IC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4INO4
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 3000 ml | CO | CH4O
product | Methyl 2-Iodo-5-Nitro-Benzoate | IC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6INO4
